US03969363
1-(2-Methyl-5-pyridyl)-3-amino-n-butanol can be used as the starting material, is obtained as follows: 20.0 g of (6-methyl-nicotinoyl)-acetone, 200 ml of ethanol and 0.5 g of ammonium bromide are saturated with ammonia at 50° and heated at 50° for 15 hours whilst continuing to introduce ammonia. 8.5 g of sodium boranate are introduced in portions over the course of 1 hour into the solution, obtained above, of 1-(2-methyl-5-pyridyl)-3-amino-but-2-en-1-one of the formula ##EQU46## and the mixture is stirred for 7 hours at 70° . The solvent is distilled off in vacuo and the residue is taken up in 20% strength aqueous potassium hydroxide solution and pentanol-1. After working up in the usual manner, 19.2 g of crude 1-(2-methyl-5-pyridyl)-3-amino-n-butanol of the formula ##EQU47## are obtained from the pentanol solution as an oil which can be purified further by column chromatography.

reactant | 1-(2-Methyl-5-pyridyl)-3-amino-n-butanol | CC1=NC=C(C=C1)C(CC(C)N)O | C10H16N2O
reactant | (6-methyl-nicotinoyl)-acetone | 20.0 g | CC1=NC=C(C(=O)CC(C)=O)C=C1 | C10H11NO2
reactant | ammonium bromide | 0.5 g | [Br-].[NH4+]
reactant | ammonia | N | H3N
reactant | sodium boranate | 8.5 g | B(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(2-methyl-5-pyridyl)-3-amino-but-2-en-1-one | CC1=NC=C(C=C1)C(C=C(C)N)=O | C10H12N2O
